US08648089B2
tert-butyl 4-(1H-indol-6-yl)piperazine-1-carboxylate
Pd2(dba)3 (30 mg, 0.026 mmol), tert-butyl piperazine-1-carboxylate (570 mg, 3.06 mmol), X-Phos (CAS Number: 564483-18-7, 40 mg, 0.077 mmol) and 6-bromo-1H-indole (500 mg, 2.55 mmol) were added to THF (2 mL) in a sealed reactor. After adding lithium hexamethyldisilazide (LHMDS; 1 M in THF, 5.61 mL, 5.6 mmol) at room temperature, the mixture solution was stirred at 65° C. for 24 hours in a sealed state. After cooling to room temperature, the reaction was terminated with saturated ammonium chloride aqueous solution. After extraction with ethyl acetate, the collected organic layer was washed with saturated sodium bicarbonate aqueous solution and brine and then concentrated by drying with anhydrous sodium sulfate. The residue was purified by chromatography (silica gel, EA:Hx=1:2). The target compound (334 mg) was obtained as white solid.

reactant | tert-butyl piperazine-1-carboxylate | 3.06 mmol, 570 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 6-bromo-1H-indole | 2.55 mmol, 500 mg | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | lithium hexamethyldisilazide | 5.6 mmol, 1 M, 5.61 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
catalyst | Pd2(dba)3 | 0.026 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | X-Phos | 0.077 mmol, 40 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(1H-indol-6-yl)piperazine-1-carboxylate | 334 mg | N1C=CC2=CC=C(C=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N3O2
